US06515011B2
TFA (1 mL) was added to a stirred solution of tert-butyl 5-chloro-2-{2-[(4-methoxyphenyl)amino]-3,3,3-trifluoropropyl}benzylcarbamate (0.205 g, 0.447 mmol) in CH2Cl2 (2 mL). After 1 h the solvent was evaporated in vacuo and the residue was partitioned between EtOAc and saturated aqueous Na2CO3. The organic layer was dried (Na2SO4) and evaporated in vacuo to give N-{1-[2-(aminomethyl)-4-chlorobenzyl]-2,2,2-trifluoroethyl}-N-(4-methoxyphenyl)amine (0.182 a solid; 1H NMR (CDCl3, 400 MHz) δ 3.02 (dd, J=10.9 and 14.2 Hz, 1H), 3.11 (dd, J=3.4 and 14.2 Hz, 1H), 3.69 (s, 3H), 3.86 (d, J=12.9 Hz, 1H), 3.97 (d, J=12.9 Hz, 1H), 3.98 (obscured m, 1H), 6.44 (d, J=8.8 Hz, 2H), 6.66 (d, J=8.8 Hz, 2H), 7.19 (s, 2H), 7.22 (s, 1H).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 5-chloro-2-{2-[(4-methoxyphenyl)amino]-3,3,3-trifluoropropyl}benzylcarbamate | 0.447 mmol, 0.205 g | ClC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)CC(C(F)(F)F)NC1=CC=C(C=C1)OC | C22H26ClF3N2O3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{1-[2-(aminomethyl)-4-chlorobenzyl]-2,2,2-trifluoroethyl}-N-(4-methoxyphenyl)amine | NCC1=C(CC(C(F)(F)F)NC2=CC=C(C=C2)OC)C=CC(=C1)Cl | C17H18ClF3N2O
